US07576215B2
[4-{3-[(6-CHLOROPYRIDIN-3-YL)METHOXY]PHENYL}-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL](PHENYL)METHANONE
The title compound was prepared from [4-(3-hydroxyphenyl)-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone and 5-Bromomethyl-2-chloropyridine following the procedure of Example 478: MS (ES) m/z 519.1.

reactant | [4-(3-hydroxyphenyl)-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone | OC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C23H14F3NO2
reactant | 5-Bromomethyl-2-chloropyridine | BrCC=1C=CC(=NC1)Cl | C6H5BrClN
product | [4-{3-[(6-CHLOROPYRIDIN-3-YL)METHOXY]PHENYL}-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL](PHENYL)METHANONE | ClC1=CC=C(C=N1)COC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C29H18ClF3N2O2
